US05436267
7.5 g of 3'-trifluoromethylacetophenone, 6.25 g of hydroxylamine hydrochloride, and 8.8 g of sodium acetate trihydrate were heated in 125 ml of methanol under reflux for one hour. After completion of the reaction, the methanol was distilled off under reduced pressure. 190 ml of water was added to the resulting residue, followed by extraction with ethyl acetate. The ethyl acetate layer was dried over anhydrous sodium sulfate and stripped of the solvent by distillation under reduced pressure to obtain 7.3 g of 3'-trifluoromethylacetophenone oxime having a melting point of 63° to 65° C.

reactant | 3'-trifluoromethylacetophenone | 7.5 g | FC(C=1C=C(C=CC1)C(C)=O)(F)F | C9H7F3O
reactant | hydroxylamine hydrochloride | 6.25 g | Cl.NO
reactant | sodium acetate trihydrate | 8.8 g | O.O.O.C(C)(=O)[O-].[Na+]
solvent | methanol | 125 ml | CO | CH4O
product | 3'-trifluoromethylacetophenone oxime | 7.3 g | FC(C=1C=C(C=CC1)C(C)=NO)(F)F | C9H8F3NO
